US07846954B2
Synthesized according to General Procedure 14. To a stirred solution of 4-[(3R,3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-N-(4-methoxyphenylsulfonyl)-N-(thiazol-2-yl)benzenesulfonamide (40 g, 56.5 mmol) in anhydrous DCM (320 mL) under nitrogen at 0° C. was added morpholine (5.42 g, 5.42 mL, 62.2 mmol) dropwise over 5 minutes. The cooling bath was removed and the reaction mixture was allowed to warm up to RT. Stirring was continued at RT for 2 hours during which time the product precipitated. The solid was filtered, washed with ethyl acetate (100 mL) and dried under vacuum to constant weight to provide 4-[(3R,3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-N-(thiazol-2-yl)benzenesulfonamide as a white solid (23.50 g, 43.7 mmol, 77% yield). 1H-NMR (400 MHz, DMSO-d6) δ 7.84-7.77 (m, 4H), 7.43-7.37 (m, 3H), 7.24 (d, J=4.6 Hz, 1H), 6.81 (d, J=4.6 Hz, 1H), 3.83-3.72 (m, 2H), 3.58 (t, J=8.8 Hz, 1H), 3.07-2.96 (m, 3H), 2.87 (td, J=8.6, 4.3 Hz, 1H), 2.34-2.20 (m, 2H), 2.11-2.02 (m, 1H) and 1.74 (dt, J=19.9, 6.9 Hz, 1H) ppm. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=537.3; tR=1.30 min. SFC (Chiralpak AS-H, (0.46×25 cm), 40% methanol (1% DEA)/CO2, 3 ML/min): tR=13.0 min.

reactant | 4-[(3R,3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-N-(4-methoxyphenylsulfonyl)-N-(thiazol-2-yl)benzenesulfonamide | 56.5 mmol, 40 g | ClC=1C=C(C=C(C1)Cl)[C@@H]1CN(CC1)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C30H28Cl2N4O6S3
reactant | morpholine | 62.2 mmol, 5.42 mL, 5.42 g | N1CCOCC1 | C4H9NO
solvent | DCM | 320 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3R,3′S)-3-(3,5-dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-N-(thiazol-2-yl)benzenesulfonamide | 43.7 mmol, 23.50 g, 77% yield | ClC=1C=C(C=C(C1)Cl)[C@@H]1CN(CC1)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C23H22Cl2N4O3S2
